US03948913
The procedure described in Example 3b was repeated using 4-chloro-6-ethyl-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine as starting material instead of 4-chloro-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine, the reaction conditions being the same. The crystalline product was recrystallised from dimethyl formamide to give 4-amino-6-ethyl-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine, having decomposition point 294°C.

reactant | 4-chloro-6-ethyl-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine | ClC1=C2C(=NC(=N1)CC)N(N=C2C=2OC(=CC2)[N+](=O)[O-])C | C12H10ClN5O3
reactant | 4-chloro-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine | ClC1=C2C(=NC=N1)N(N=C2C=2OC(=CC2)[N+](=O)[O-])C | C10H6ClN5O3
product | 4-amino-6-ethyl-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine | NC1=C2C(=NC(=N1)CC)N(N=C2C=2OC(=CC2)[N+](=O)[O-])C | C12H12N6O3
